US04829067
1.43 g of 2-phenylbenzofuran-7-carboxylic acid are dissolved in 10 ml of tetrahydrofuran, and 1.08 g of carbonyldiimidazole are added to the solution. The mixture is stirred at room temperature for 2 hours and a solution of 0.76 g of 2-(t-butylamino)ethanol in 4 ml of tetrahydrofuran is added thereto. The mixture is stirred at room temperature for 15 hours and evaporated to remove solvent. Water is added to the residue and the aqueous mixture is extracted with ethyl acetate. The extract is washed with water, dried, and evaporated to remove solvent to give 1.72 g of 2-(t-butylamino)ethyl 2-phenylbenzofuran-7-carboxylate as pale yellow oil.

reactant | 2-phenylbenzofuran-7-carboxylic acid | 1.43 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H10O3
reactant | carbonyldiimidazole | 1.08 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(t-butylamino)ethanol | 0.76 g | C(C)(C)(C)NCCO | C6H15NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-(t-butylamino)ethyl 2-phenylbenzofuran-7-carboxylate | 1.72 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)OCCNC(C)(C)C | C21H23NO3
